* 5F10 (Tweed Harvard-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published 5F10
* (F-EF) drawing's component values (see meta.yaml); no drawing reproduced.
*
* DC conventions: B+1 driven at the printed +305 V; downstream rails DERIVED.
* The 470 R and 22 k droppers are modeled, so the 6V6 screen current and the
* preamp current set B+2/B+3 by simulation. OT primary DCR omitted (6V6 plates
* sit at B+1). Fixed-bias supply replaced by an ideal -21 V source (its selenium
* rectifier, 6.8 k, 56 k and 25 uF network is AC/ripple filtering). The 56 k
* negative-feedback resistor returns from the speaker (~0 V DC) to the driver
* cathode, so at DC it parallels that 1.5 k. Coupling and tone caps omitted
* (DC open); cathode-bypass caps omitted (DC no-ops). The 6AT6 grid returns to
* ground through a switched input jack (its 68 k stopper), modeled as 68 k.
.include models/6at6.inc
.include models/12ax7.inc
.include models/6v6gt.inc

VBP1 BP1 0 DC 305
VBIAS NBIAS 0 DC -21

* rail: 470 -> screens node, 22k -> preamp/PI node
RD1 BP1 BP2 470
RD2 BP2 BP3 22k

* V1 6AT6 first stage (1.5k cathode, 25uF bypass; grid ref via input jacks)
RL1 BP3 PAT 100k
XV1 PAT GAT KAT 6AT6
RGAT GAT 0 68k
RK1 KAT 0 1.5k

* V2A 12AX7 driver — unbypassed 1.5k cathode; 56k NFB from speaker parallels it
RL2 BP3 P2A 100k
XV2A P2A G2A K2A 12AX7
RGD G2A 0 1meg
RK2 K2A 0 1.5k
RNFB K2A 0 56k

* V2B 12AX7 cathodyne phase inverter: K -> 1.5k -> J -> 56k -> gnd,
* 56k plate load, 1M grid leak returned to the junction (tone caps AC-couple)
RL3 BP3 PPI 56k
XV2B PPI GPI KPI 12AX7
RKA KPI JPI 1.5k
RKB JPI 0 56k
RGPI GPI JPI 1meg

* 6V6GT pair — fixed bias via 220k leaks from -21 V (1.5k stoppers DC-nil),
* plates at B+1 (OT primary), screens after the 470 R at B+2, cathodes grounded
XV3 BP1 BP2 G6A 0 6V6GT
RG1 NBIAS G6A 220k
XV4 BP1 BP2 G6B 0 6V6GT
RG2 NBIAS G6B 220k
